US07470679B2
(R)-3-(2-(acetoxymethyl)-4-(tert-butoxycarbonylamino)-3-methylphenyl)-1-methoxy-1-oxopropan-2-yl benzoate
(Z)-1-(2-(acetoxymethyl)-4-(tert-butoxycarbonylamino)-3-methylphenyl)-3-methoxy-3-oxoprop-1-en-2-yl benzoate (20.00 g, 41.4 mmol) in dichloromethane (120.00 ml) was added (−)-1,2-bis((2R,5R)-2,5-diethylphospholano)benzene(cyclooctadiene)rhodium (I) tetrafluoroborate (280.00 mg, 0.424 mmol) under nitrogen atmosphere. The reaction mixture was hydrogenated at 60 psi pressure of hydrogen for 12 h. The solvent was removed and crude product was carried to the next step as such. MS (ESI) 508 (M+H); Rf=2.53.

reactant | (Z)-1-(2-(acetoxymethyl)-4-(tert-butoxycarbonylamino)-3-methylphenyl)-3-methoxy-3-oxoprop-1-en-2-yl benzoate | 41.4 mmol, 20.00 g | C(C1=CC=CC=C1)(=O)O\C(=C/C1=C(C(=C(C=C1)NC(=O)OC(C)(C)C)C)COC(C)=O)\C(=O)OC | C26H29NO8
reactant | hydrogen | [H][H] | H2
solvent | dichloromethane | 120.00 ml | ClCCl | CH2Cl2
product | (R)-3-(2-(acetoxymethyl)-4-(tert-butoxycarbonylamino)-3-methylphenyl)-1-methoxy-1-oxopropan-2-yl benzoate | C(C1=CC=CC=C1)(=O)O[C@@H](C(=O)OC)CC1=C(C(=C(C=C1)NC(=O)OC(C)(C)C)C)COC(C)=O | C26H31NO8
